US04420487
Preparation of 5-Chloro-2-Mercapto-6-Sulfamyl-1H-Benzimidazole
To 2.9 g of potassium hydroxide dissolved in 45 ml of ethanol and 9 ml of water was added with stirring 4.0 g of carbon disulfide. This solution was then added dropwise to 300 ml of ethanol containing 11.8 g of 2-amino-4-chloro-5-sulfamylaniline. The reaction was refluxed for 5 hours and then concentrated in vacuo to a dark oil. Treatment with 50° C. water provided a solid which was removed by filtration. The filtrate was cooled with ice and acidified to pH 5.0 with acetic acid to yield a gray solid. Trituration of the solid with boiling methanol provided a solid which upon drying gave 5.6 g of pink crystals, m.p. 341°-343°.

reactant | potassium hydroxide | 2.9 g | [OH-].[K+]
reactant | water | 9 ml | O | H2O
reactant | carbon disulfide | 4.0 g | C(=S)=S | CS2
reactant | 2-amino-4-chloro-5-sulfamylaniline | NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O | C6H8ClN3O2S
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | ethanol | 300 ml, 11.8 g | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 5-Chloro-2-Mercapto-6-Sulfamyl-1H-Benzimidazole | 5.6 g | ClC1=CC2=C(NC(=N2)S)C=C1S(N)(=O)=O | C7H6ClN3O2S2
